US06641970B2
A mixture of 114 g of 2-methyl-N-(4-nitro phenyl) acrylamide (=0.55 mol) and 92.6 g of Fe powder (=1.65 mol 3 mol equiv.) in 420 ml of ethanol was refluxed. Upon refluxing 400 ml of acetic acid (=6.6 mol=12 mol equiv.) was added. A proper cooling and a safe gas separation were ensured. During the first reaction step a very strong exothermic gas release occurred. After completing of the addition of acetic acid, stirring while refluxing was continued for 60 min. After TLC inspection 300 ml of ethyl acetate was added and the Fe salts were suction-filtered. The salts were then washed with 1.9 L of ethyl acetate. While stirring, 138 ml of HCl conc. (1.65 mol=3 equiv.) was added to the filtrate. The mixture was cooled to 5° C. while stirring. The precipitate was suction-filtered and washed with ethyl acetate. After drying at 40° C. 85 g of N-(4-amino phenyl)-2-methyl acrylamide hydrochloride was obtained (i.e. 72% versus 117 g theor.)

reactant | 2-methyl-N-(4-nitro phenyl) acrylamide | 0.55 mol, 114 g | CC(C(=O)NC1=CC=C(C=C1)[N+](=O)[O-])=C | C10H10N2O3
reactant | acetic acid | 6.6 mol, 400 ml | C(C)(=O)O | C2H4O2
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | HCl | 1.65 mol, 138 ml, 3 equiv. | Cl | ClH
solvent | ethanol | 420 ml | C(C)O | C2H6O
catalyst | Fe | 1.65 mol, 92.6 g | [Fe] | Fe
product | N-(4-amino phenyl)-2-methyl acrylamide hydrochloride | 85 g | Cl.NC1=CC=C(C=C1)NC(C(=C)C)=O | InChI=1S/C10H12N2O.ClH/c1-7(2)10(13)12-9-5-3-8(11)4-6-9;/h3-6H,1,11H2,2H3,(H,12,13);1H
